Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right thigh pain
 
Major Surgical or Invasive Procedure:
___ Revision ORIF R periprosthetic femur fracture 

 
History of Present Illness:
HPI: ___ with PMH parkinsons, anxiety, htn who tripped over her 
sandal this afternoon, falling on her right hip. Pt is 
___ speaking, granddaughter present to assist with 
communication. Pt denies head strike or LOC, denies any pain 
elsewhere other than R hip. Pt had hemiarthroplasty done in ___ 
at ___ following a fall and hip fracture. 
Lives with her family in her own apartment of a two-family home. 
Recently diagnosed with UTI for which she has been taking 
ceftriaxone
 
Past Medical History:
History also obtained from her son and ___ over the telephone. 

PMH/PSH: Parkinsons, s/p R hemiarthroplasty ___
 
Social History:
___
Family History:
NC
 
Physical Exam:
RLE wound is well approximated and intact. Some ecchymosis is 
noted. NVI distally. 
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have R periprosthetic femur fx around hemiarthroplasty and 
was admitted to the orthopedic surgery service. The patient was 
taken to the operating room on ___ for Revision ORIF R 
periprosthetic femur fracture, which the patient tolerated well. 
For full details of the procedure please see the separately 
dictated operative report. The patient was taken from the OR to 
the PACU in stable condition and after satisfactory recovery 
from anesthesia was transferred to the floor. The patient was 
initially given IV fluids and IV pain medications. She has 
history of recurrent anxiety induced vomiting. As such, a Speech 
and swallow evaluation was obtained and they recommended pureed 
solids with thin liquids. A GI consult was also obtained and 
they had recommended symptomatic management with scheduled 
Zofran. She was advanced from clears to pureed solids. Her 
vomiting reduced to about ___ small emesis a day. This vomiting 
issue was discussed extensively with son, who reported that this 
was a chronic issue for over ___ year and is anxiety driven. She 
had extensive testing at ___ and no GI 
tract lesion was noted. She follows with Dr. ___ 
___ at ___. Her 
PCP is ___ (___) who have been following her 
for the vomiting as well. She was treated for UTI with regimen 
of Ceftriaxone.  The patient's home medications were continued 
throughout this hospitalization. The patient worked with ___ who 
determined that discharge to rehab was appropriate. The 
___ hospital course was otherwise unremarkable. 
Postoperatively, she was transfused 2 units of PRBC for low 
hematocrit. 

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
TDWB RLE with posterior precautions, abduction pillow, and will 
be discharged on Lovenox 40mg QD for 4 weeks for DVT 
prophylaxis. The patient will follow up with Dr. ___ 
routine. A thorough discussion was had with the patient 
regarding the diagnosis and expected post-discharge course 
including reasons to call the office or return to the hospital, 
and all questions were answered. The patient was also given 
written instructions concerning precautionary instructions and 
the appropriate follow-up care. The patient expressed readiness 
for discharge.

 
Medications on Admission:
4. Calcium Carbonate 500 mg PO TID
5. Carbidopa-Levodopa (___) 2 TAB PO TID
6. Carbidopa-Levodopa CR (___) 1 TAB PO AT ___
7. Docusate Sodium 100 mg PO BID
1. ALPRAZolam 0.25 mg PO BID:PRN anxiety RX *alprazolam 0.25 mg 
1 tablet(s) by mouth twice a day
 Entacapone 200 mg PO TID
 
Discharge Medications:
1. ALPRAZolam 0.25 mg PO BID:PRN anxiety 
RX *alprazolam 0.25 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
2. OxycoDONE (Immediate Release)  2.5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 0.5 (One half) tablet(s) by mouth every four 
(4) hours Disp #*30 Tablet Refills:*0
3. Acetaminophen 1000 mg PO Q8H 
4. Calcium Carbonate 500 mg PO TID 
5. Carbidopa-Levodopa (___) 2 TAB PO TID 
6. Carbidopa-Levodopa CR (___) 1 TAB PO AT ___ 
7. Docusate Sodium 100 mg PO BID 
8. Enoxaparin Sodium 40 mg SC Q24H Duration: 4 Weeks 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
9. Entacapone 200 mg PO TID 
10. Vitamin D 800 UNIT PO DAILY 
11. Ondansetron 4 mg PO Q8H:PRN nausea/vomitting 
12. Pantoprazole 40 mg PO Q12H 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
R periprosthetic femur fx around hemiarthroplasty

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
INSTRUCTIONS AFTER ORTHOPAEDIC SURGERY:

- You were in the hospital for orthopedic surgery. It is normal 
to feel tired or "washed out" after surgery, and this feeling 
should improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- TDWB RLE with posterior precautions, abduction pillow

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take Lovenox 40mg daily for 4 weeks

WOUND CARE:
- You may shower. No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- No dressing is needed if wound continues to be non-draining.

DANGER SIGNS:
Please call your PCP or surgeon's office and/or return to the 
emergency department if you experience any of the following:
- Increasing pain that is not controlled with pain medications
- Increasing redness, swelling, drainage, or other concerning 
changes in your incision
- Persistent or increasing numbness, tingling, or loss of 
sensation
- Fever > 101.4
- Shaking chills
- Chest pain
- Shortness of breath
- Nausea or vomiting with an inability to keep food, liquid, 
medications down
- Any other medical concerns

FOLLOW UP:
Please follow up with Dr. ___ in the ___ Trauma 
Clinic ___ days post-operation for evaluation. Someone from 
our office should call you to schedule this, but if you do not 
hear from us within a few days after discharge, please call 
___ to schedule appointment

Please follow up with your primary care doctor regarding this 
admission within ___ weeks and for and any new 
medications/refills.
Physical Therapy:
Activity: TDWB RLE with posterior precautions, abduction pillow
Treatments Frequency:
Please change dressings with gauze and paper tape. 
 
Followup Instructions:
___